US09353096B2
(S)-2-[Hydroxy-(6-methoxy-pyridin-3-yl)-methyl]-morpholine-4-carboxylic acid tert-butyl ester (290 mg, 0.90 mmol) was dissolved in dichloromethane (5 mL) and cooled to 0° C. Tetrabromomethane (593 mg, 1.79 mmol) was added. Triphenylphosphine (305 mg, 1.16 mmol) was then added portionwise and the resulting reaction mixture was stirred at 0° C. for 10 min., then at room temperature for 1.25 h. Reaction was not complete so additional triphenylphosphine (45 mg) was added and the reaction was stirred at room temperature for 2.5 h. The reaction mixture was concentrated and purified by flash chromatography (1:2 EtOAc/heptane eluent) to afford (S)-2-[bromo-(6-methoxy-pyridin-3-yl)-methyl]-morpholine-4-carboxylic acid tert-butyl ester (295 mg, 85%) as a colorless liquid. The product was a mixture of diastereomers by NMR: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.42 (s, 3.5H) 1.48 (s, 5.5H) 2.54-3.06 (m, 2H) 3.47 (d, J=2.69 Hz, 0.65H) 3.54-3.64 (m, 0.45H) 3.66-3.88 (m, 3H) 3.93 (s, 3H) 3.97-4.06 (m, 0.45H) 4.23-4.48 (m, 0.55H) 4.83 (d, J=7.25 Hz, 1H) 6.70-6.78 (m, 1H) 7.69 (dd, J=8.60, 2.69 Hz, 1H) 8.13 (d, J=2.42 Hz, 1H).

reactant | (S)-2-[Hydroxy-(6-methoxy-pyridin-3-yl)-methyl]-morpholine-4-carboxylic acid tert-butyl ester | 0.90 mmol, 290 mg | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C(C=1C=NC(=CC1)OC)O | C16H24N2O5
reactant | Tetrabromomethane | 1.79 mmol, 593 mg | BrC(Br)(Br)Br | CBr4
reactant | Triphenylphosphine | 1.16 mmol, 305 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 45 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-2-[bromo-(6-methoxy-pyridin-3-yl)-methyl]-morpholine-4-carboxylic acid tert-butyl ester | 295 mg, 85% | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C(C=1C=NC(=CC1)OC)Br | C16H23BrN2O4
